US07875645B2
1-Cyclopropyl-2-(2,2-dibromo-vinyl)-3-methyl-benzene was prepared from 2-cyclopropyl-6-methyl-benzaldehyde, carbon tetrabromide and triphenylphosphine in analogy to Example 1d): colourless oil; 1H-NMR (CDCl3): 0.69 (2H, m, CH2), 0.94 (2H, m, CH2), 1.87 (1H, m, CH), 2.26 (3H, s, CH3), 6.77 (1H, d, ArH), 7.03 (1H, d, ArH), 7.17 (1H, t, ArH), 7.52 (1H, s, CH═CBr2).

reactant | 2-cyclopropyl-6-methyl-benzaldehyde | C1(CC1)C1=C(C=O)C(=CC=C1)C | C11H12O
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1-Cyclopropyl-2-(2,2-dibromo-vinyl)-3-methyl-benzene | C1(CC1)C1=C(C(=CC=C1)C)C=C(Br)Br | C12H12Br2
